US06927228B2
(a) (3-Bromophenyl)ethylamine
5 g (29.1 mmol) of 3-bromoaniline in 500 ml of ether are introduced into a round-bottomed flask under a stream of nitrogen. 4.5 ml (32 mmol) of triethylamine and 15.2 ml (117 mmol) of diethyl sulfate are added. The medium is refluxed for 24 hours and then left for 8 days at room temperature. It is then poured into water and extracted with ether. The organic phase is washed with saturated aqueous sodium chloride solution and is then dried over magnesium sulfate, filtered and evaporated. The residue is purified by chromatography on a column of silica eluted with a heptane/ethyl acetate mixture (95/5) and 2.5 g (43%) of the expected product are obtained.

reactant | 3-bromoaniline | 29.1 mmol, 5 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | triethylamine | 32 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl sulfate | 117 mmol, 15.2 ml | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | water | O | H2O
solvent | ether | 500 ml | CCOCC | C4H10O
product | (3-Bromophenyl)ethylamine | BrC=1C=C(C=CC1)CCN | C8H10BrN
